US07071182B2
3-(4-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and 3-(4-phenoxy-phenyl)-propionic acid were processed to provide the title compound. MS (DCI/NH3) MS m/z 455 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ ppm 1.84 (m, 2 H), 2.00 (m, 2 H), 2.70 (t, J=7.64 Hz, 2 H), 2.94 (t, J=7.64 Hz, 2 H), 3.05 (m, 2 H), 3.53 (m, 2 H), 3.71 (q, J=5.82 Hz, 2 H), 4.68 (t, J=6.24 Hz, 2 H), 6.95 (m, 4 H), 7.09 (m, 2 H), 7.29 (m, 2 H), 7.36 (m, 2 H), 7.70 (m, 1 H), 8.08 (s, 1 H), 8.28 (s, 1 H), 9.62 (br s, N H).

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | 3-(4-phenoxy-phenyl)-propionic acid | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)O | C15H14O3
product | 3-(4-phenoxyphenyl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]propanamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1 | C28H30N4O2
